US08084484B2
g) N-(4-tert-Butylbenzyl)-2-(quinoxalin-6-yl)propanamide
To the flask of N-(4-tert-butyl-benzyl)-2-(3,4-diamino-phenyl)-propionamide (81 mg, 0.249 mmol) was added glyoxal (4 mL, 40% in water soln.) at room temperature, and additionally added DMF (4 mL) because SM was not soluble in glyoxal sufficiently. The reaction mixture was refluxed for 2 hrs then cooled to room temperature. The mixture was diluted with H2O (25 mL) and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:1) as eluant.

reactant | N-(4-tert-butyl-benzyl)-2-(3,4-diamino-phenyl)-propionamide | 0.249 mmol, 81 mg | C(C)(C)(C)C1=CC=C(CNC(C(C)C2=CC(=C(C=C2)N)N)=O)C=C1 | C20H27N3O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | glyoxal | 4 mL | C(=O)C=O | C2H2O2
solvent | H2O | 25 mL | O | H2O
product | N-(4-tert-Butylbenzyl)-2-(quinoxalin-6-yl)propanamide | C(C)(C)(C)C1=CC=C(CNC(C(C)C=2C=C3N=CC=NC3=CC2)=O)C=C1 | C22H25N3O
